US05783522
3-Chloro-2-(4-chloro-3-methoxycarbonylphenyl)-5-trifluoromethylpyridine (Table 1, Example I.103)
4.8 g of 3-chloro-2-(4-chloro-3-formylphenyl)-5-trifluoromethylpyridine, 8.4 g of N-iodosuccinimide, 5.2 g of potassium carbonate and 120 ml of methanol were stirred at 23° C. for 20 hours. Most of the methanol was removed by distillation and then a solution of 7 g of Na2S2O3 pentahydrate in 200 ml of water was added, after which the mixture was extracted three times with 100 ml of tert-butyl methyl ether each time. The combined organic phases were washed with 50 ml of water, dried over sodium sulfate and concentrated. Yield: 4.9 g (93%) of a colorless oil;

reactant | 3-chloro-2-(4-chloro-3-formylphenyl)-5-trifluoromethylpyridine | 4.8 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C=O | C13H6Cl2F3NO
reactant | N-iodosuccinimide | 8.4 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | potassium carbonate | 5.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 120 ml | CO | CH4O
product | 3-Chloro-2-(4-chloro-3-methoxycarbonylphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(=O)OC | C14H8Cl2F3NO2
